US06265411B1
A solution of 5-carbamoyloxindole (391 mg, 2.2 mmol) in DMF (5 ml) was added dropwise to sodium hydride (89 mg, 2.2 mmol, prewashed with hexane) in DMF (3.5 ml). The mixture was stirred for 20 minutes at ambient temperature and 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline (250 mg, 0.74 mmol), (prepared as described for the starting material in Example 5), was added as a solid and the mixture was heated at 60° C. for 1 hour. The volatiles were removed by evaporation and the residue was partitioned between ethyl acetate and water. The aqueous layer was adjusted to pH8.5 with 2M hydrochloric acid. The precipitate was collected by filtration, washed with water and dried under vacuum. The solid was dissolved in methylene chloride/methanol and 3M ethereal hydrogen chloride (2 ml) was added. The mixture was concentrated by evaporation and the resulting precipitate was collected by filtration, washed with ether and dried under vacuum to give 4-(5-carbamoyloxindol-3-yl)-6-methoxy-7-(3-morpholinopropoxy)quinazoline hydrochloride (184 mg, 45%).

reactant | 5-carbamoyloxindole | 2.2 mmol, 391 mg | C(N)(=O)C=1C=C2CC(NC2=CC1)=O | C9H8N2O2
reactant | sodium hydride | 2.2 mmol, 89 mg | [H-].[Na+]
reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 0.74 mmol, 250 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3.5 ml | CN(C)C=O | C3H7NO
product | 4-(5-carbamoyloxindol-3-yl)-6-methoxy-7-(3-morpholinopropoxy)quinazoline hydrochloride | 184 mg, 45% | Cl.C(N)(=O)C=1C=C2C(C(NC2=CC1)=O)C1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | InChI=1S/C25H27N5O5.ClH/c1-33-20-12-17-19(13-21(20)35-8-2-5-30-6-9-34-10-7-30)27-14-28-23(17)22-16-11-15(24(26)31)3-4-18(16)29-25(22)32;/h3-4,11-14,22H,2,5-10H2,1H3,(H2,26,31)(H,29,32);1H
